US05166170
2-Aminoacetophenone 4-chlorophenylhydrazone
A mixture of 10.43 g 2-aminoacetophenone and 11.0 g 4-chlorophenylhydrazine in 30 ml EtOH and 10 ml HOAc was refluxed for one hour. The cooled reaction mixture was diluted with water and the precipitate was collected, washed with water, and dried to give 16.83 g solid. Recrystallization from methanol gave 3.48 g solid, m.p. 109°-112° C.

reactant | 2-aminoacetophenone | 10.43 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | 4-chlorophenylhydrazine | 11.0 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Aminoacetophenone 4-chlorophenylhydrazone | 16.83 g | ClC1=CC=C(C=C1)NN=C(CN)C1=CC=CC=C1 | C14H14ClN3
